US04824943
To a solution of 3,4,5,7-tetra-O-benzyl-1-deoxy-1-(dimethoxyphosphoryl)-D-gluco-2-heptulopyranose (13.8 g) in tetrahydrofuran (140 ml) was added sodium borohydride (1.4 g). The mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was distributed between ethyl acetate (500 ml) and water (300 ml). The ethyl acetate layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrate was subjected to a silica gel column chromatography (550 ml) with tolueneacetone (2:1). The elute was concentrated under reduced pressure and dried under reduced pressure to give a mixture (12.4 g) of 3,4,5,7-tetra-O-benzyl-1-deoxy-1-(dimethoxyphosphoryl)-D-glycero-D-gulo-heptitol and 1,3,4,5-tetra-O-benzyl-7-deoxy-7-(dimethoxyphosphoryl)-D-glycero-L-gulo-heptitol.

reactant | 3,4,5,7-tetra-O-benzyl-1-deoxy-1-(dimethoxyphosphoryl)-D-gluco-2-heptulopyranose | 13.8 g | C(C1=CC=CC=C1)O[C@H]1C(CP(=O)(OC)OC)(O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C37H43O9P
reactant | sodium borohydride | 1.4 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 3,4,5,7-tetra-O-benzyl-1-deoxy-1-(dimethoxyphosphoryl)-D-glycero-D-gulo-heptitol | 12.4 g | C(C1=CC=CC=C1)O[C@@H]([C@H](CP(=O)(OC)OC)O)[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C37H45O9P
